US09120824B2
lithium 4-((S)-1-((R)-1-(3,4-difluorobenzyl)pyrrolidine-2-carboxamido)ethyl)benzoate (E17)
The title compound (E17) (36 mg) was prepared according to the general procedure for esters hydrolysis starting from methyl 4-((S)-1-((R)-1-(3,4-difluorobenzyl)pyrrolidine-2-carboxamido)ethyl)benzoate (D34) (38 mg). (LiOH H2O: 1.5 eq; reaction time: 24 hrs)

reactant | methyl 4-((S)-1-((R)-1-(3,4-difluorobenzyl)pyrrolidine-2-carboxamido)ethyl)benzoate | 38 mg | FC=1C=C(CN2[C@H](CCC2)C(=O)N[C@@H](C)C2=CC=C(C(=O)OC)C=C2)C=CC1F | C22H24F2N2O3
reactant | LiOH H2O | O[Li].O
product | lithium 4-((S)-1-((R)-1-(3,4-difluorobenzyl)pyrrolidine-2-carboxamido)ethyl)benzoate | 36 mg | FC=1C=C(CN2[C@H](CCC2)C(=O)N[C@@H](C)C2=CC=C(C(=O)[O-])C=C2)C=CC1F.[Li+] | InChI=1S/C21H22F2N2O3.Li/c1-13(15-5-7-16(8-6-15)21(27)28)24-20(26)19-3-2-10-25(19)12-14-4-9-17(22)18(23)11-14;/h4-9,11,13,19H,2-3,10,12H2,1H3,(H,24,26)(H,27,28);/q;+1/p-1/t13-,19+;/m0./s1
